US07271274B2
To a solution of probucol (5.16 g, 10 mmol) in THF (20 mL) cooled to 0° C. were added triphenylphosphine (1.3 g, 5 mmol), diethyl azodicarboxylate (0.8 mL g, 5 mmol) and 2-ethoxy-1,3-dioxolane-4(S),5(S)-dimethanol (0.89 g, 5 mmol; Nicolaou, K. C. et al.: J. Org. Chem. 1985, 50, 1440–1456). The resultant mixture was stirred at reflux for 3 hours and then evaporated. Silica gel chromatography (hexanes/ethyl acetate 4:1) gave 2,6-di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(S)-hydroxymethyl[1,3]dioxolan-4(S)-yl-methoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol in three parts: diasteroisomer A (0.36 g), diastereoisomer B (0.22 g) and a mixture of the two (0.72 g) all as viscous residues (total yield: 39%). Diastereoisomer A: 1H-NMR (CDCl3) δ 7.56 (s, 2H, Ph-H), 7.44 (s, 2H, Ph-H), 5.89 [s, 1H, CH(O) 3], 5.37 (s, 1H, PhOH), 4.7{tilde over (3)}4.81 (m, 1H, PhOCH2CH), 4.1{tilde over (9)}4.25 (m, 1H, CHCH2OH), 3.8{tilde over (0)}4.01 (m, 3H, CH2O), 3.6{tilde over (2)}3.96 (m, 3H, CH2O), 2.80 (dd, J=9, 3, 1H, OH), 1.45 (s, 6H, S,S′-isopropylidene), 1.44 (s, 18H, tert-butyls), 1.43 (s, 18H, tert-butyls), 1.25 (t, 3H, OCH2CH3). Diasteroisomer B: 1H-NMR (CDCl3) δ 7.56 (s, 2H, Ph-H), 7.44 (s, 2H, Ph-H), 5.92 [s, 1H, CH(O) 3], 5.36 (s, 1H, PhOH), 4.5{tilde over (0)}4.59 (m, 1H, PhOCH2CH), 4.1{tilde over (3)}4.30 (m, 3H, CHCH2OH, CH2O), 3.8{tilde over (9)}4.00 (m, 3H, CH2O), 3.61 (quad, J=7, 2H, OCH2CH3), 1.86 (dd, J=6, 8, 1H, OH), 1.4{tilde over (1)}1.46 (m, 42H, S,S′-isopropylidene, tert-butyls), 1.21 (t, 3H, OCH2CH3).

reactant | probucol | 10 mmol, 5.16 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | triphenylphosphine | 5 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5 mmol, 0.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-ethoxy-1,3-dioxolane-4(S),5(S)-dimethanol | 5 mmol, 0.89 g | C(C)OC1O[C@H]([C@@H](O1)CO)CO | C7H14O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2,6-di-tert-butyl-4-{1-[3,5-di-tert-butyl-4-(2-ethoxy-5(S)-hydroxymethyl[1,3]dioxolan-4(S)-yl-methoxy)-phenylsulfanyl]-1-methyl-ethylsulfanyl}-phenol | yield: 39% | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OC[C@@H]1OC(O[C@H]1CO)OCC)C(C)(C)C)C(C)(C)C)O | C38H60O6S2
